US07507858B2
[(4-Iodo-benzoyl)-methoxycarbonylmethyl-amino]-acetic acid methyl ester (1)
Iminodiacetic dimethyl ester hydrochloride (624 mg, 3.24 mmol) was suspended in 5 mL of anhydrous DMF under nitrogen, and N-methylmorpholine (360 μL, 3.27 mmol) was added. After 5 minutes, 4-iodobenzoic acid (805 mg, 3.25 mmol) was added, followed by HOBt (450 mg, 3.33 mmol) and EDC (1.0 g, 5.28 mmol). The reaction was stirred overnight at 45° C. The solvent was removed and the residue was dissolved in EtOAc (20 mL) and washed with 0.5 M HCl, sat. NaHCO3 and water. The organic phase was collected, the solvent removed and the mixture purified by column chromatography (silica; hexanes:EtOAc 90:10-65:45), yielding the product as a white solid. MS (ES+): Cal'd. 392.00 (MH+), exp. 391.98 (MH+).

reactant | Iminodiacetic dimethyl ester hydrochloride | 3.24 mmol, 624 mg | Cl.COC(CNCC(=O)OC)=O
reactant | N-methylmorpholine | 3.27 mmol, 360 μL | CN1CCOCC1 | C5H11NO
reactant | 4-iodobenzoic acid | 3.25 mmol, 805 mg | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | HOBt | 3.33 mmol, 450 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 5.28 mmol, 1.0 g
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [(4-Iodo-benzoyl)-methoxycarbonylmethyl-amino]-acetic acid methyl ester | COC(CN(CC(=O)OC)C(C1=CC=C(C=C1)I)=O)=O | C13H14INO5
